US07465751B2
Step 6: Preparation of 2-cyclopentyl-2-hydroxy-N-[(3S)-1-benzyl-pyrrolidin-3-yl]-2-phenylacetamide (Compound No. 1)
The compound 2-cyclopentyl-2-hydroxy-2-phenylacetic acid (0.52 g, 2.36 mM) and (3S)-1-benzyl-3-aminopyrrolidine (0.5 g, 2.84 mM) were dissolved in dimethylformamide (10.0 ml) and N-methylmorpholine (1.3 ml, 11.8 mM) was added into it followed by the addition of 1-hydroxybenzotriazole (0.32 g, 2.36 mM) at 0-5° C. The reaction mixture was maintained at 0-5° C. for 1 hour and then at room temperature for 19 hours. The reaction mixture was poured into water (100.0 ml) with constant stirring. The organic compound was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated sodium bicarbonate water and brine solution followed its drying and concentration over anhydrous sodium sulphate. The residue was purified by silica gel column chromatography using 10% methanol in chloroform to get the title compound. Yield=95% (0.5 g, 2.38 mM).

reactant | 2-cyclopentyl-2-hydroxy-2-phenylacetic acid | 2.36 mM, 0.52 g | C1(CCCC1)C(C(=O)O)(C1=CC=CC=C1)O | C13H16O3
reactant | (3S)-1-benzyl-3-aminopyrrolidine | 2.84 mM, 0.5 g | C(C1=CC=CC=C1)N1C[C@H](CC1)N | C11H16N2
reactant | N-methylmorpholine | 11.8 mM, 1.3 ml | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxybenzotriazole | 2.36 mM, 0.32 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dimethylformamide | 10.0 ml | CN(C=O)C | C3H7NO
solvent | water | 100.0 ml | O | H2O
product | 2-cyclopentyl-2-hydroxy-N-[(3S)-1-benzyl-pyrrolidin-3-yl]-2-phenylacetamide | Yield=95% | C1(CCCC1)C(C(=O)N[C@@H]1CN(CC1)CC1=CC=CC=C1)(C1=CC=CC=C1)O | C24H30N2O2
